US03976633
2-Bromo-6-trifluoromethylaniline (12.0 g., 0.05 mol.) and 4.5 g. (0.05 mol.) of cuprous cyanide in 100 ml. of dimethylformamide is refluxed for 12 hours. The reaction mixture is decomposed by addition of aqueous ferrous sulfate solution, ether is added, the layers are separated and the ethereal phase is washed with water, dried (MgSO4) and concentrated to give 2-cyano-6-trifluoromethylaniline.

reactant | 2-Bromo-6-trifluoromethylaniline | 0.05 mol, 12.0 g | BrC1=C(N)C(=CC=C1)C(F)(F)F | C7H5BrF3N
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 2-cyano-6-trifluoromethylaniline | C(#N)C1=C(N)C(=CC=C1)C(F)(F)F | C8H5F3N2
